US06458772B1
3-(N-benzyloxycarbonyl-L-valyloxymethyl)-4-stearoyloxy-butyric acid (1.26 g, 2 mmol), was treated with thionyl chloride (50 ml) at 35° C. for 3 hr, evaporated and coevaporated to give the product 3-N-benzyloxycarbonyl-L-valyloxy)-4-stearoyloxy-butyroyl chloride (1.3 g).

reactant | 3-(N-benzyloxycarbonyl-L-valyloxymethyl)-4-stearoyloxy-butyric acid | 2 mmol, 1.26 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OCC(CC(=O)O)COC(CCCCCCCCCCCCCCCCC)=O | C36H59NO8
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-stearoyloxy-butyroyl chloride | 1.3 g | C(CCCCCCCCCCCCCCCCC)(=O)OCCCC(=O)Cl | C22H41ClO3
